US06093737
4-{3-[1-(6-chloro-pyrazin-2-yl)-2-oxo-1,2-dihydro-pyridin-4-ylmethyl]-3H-imidazol-4ylmethyl}-benzonitrile was prepared in a manner substantially similar to the procedure described above for 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride, but substituting 2,6-dichloropyrazine for the iodobenzene in Step 3.

reactant | 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride | Cl.O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=CC=CC=C1
reactant | 2,6-dichloropyrazine | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 4-{3-[1-(6-chloro-pyrazin-2-yl)-2-oxo-1,2-dihydro-pyridin-4-ylmethyl]-3H-imidazol-4ylmethyl}-benzonitrile | ClC1=CN=CC(=N1)N1C(C=C(C=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)=O | C21H15ClN6O
